data/mechanism_extracts/OrgLett/10.1021_acs.orglett.3c03149_sup_1.json
{"doi": "10.1021_acs.orglett.3c03149_sup_1", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular oxidative dearomative spirocyclization of indole-tethered naphthoquinone amines to give a spiroindoline-fused naphthoquinone via radical intermediates", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of the indole/aminonaphthoquinone substrate generates a nitrogen- or carbon-centered radical (and/or radical cation) that undergoes intramolecular C–C bond formation onto the indole C3, with subsequent oxidation/deprotonation to yield the spirocyclic product", "key_intermediates": [{"name": "substrate-derived nitrogen/carbon radical (indolyl or aminyl radical) generated by anodic SET", "smiles": null, "role": "reactive"}, {"name": "indole C3 radical adduct / spirocyclic radical intermediate trapped by BHT to give compound 32", "smiles": null, "role": "transient"}, {"name": "BHT-trapped open-chain adduct 33 (phenol coupled to indole C2/C3 position of substrate)", "smiles": null, "role": "off_pathway"}, {"name": "spiroindolenine product 2", "smiles": null, "role": "reactive"}], "electron_flow": "The anode oxidizes the indole-tethered aminonaphthoquinone substrate by single-electron transfer to give a delocalized N/C-centered radical; intramolecular radical addition onto the indole forms the spiro C–C bond, and further oxidation/deprotonation (with cathodic H2 evolution) furnishes the spiroindolenine 2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Product 2 obtained only in trace amount, indicating a radical intermediate is intercepted"}, {"name": "BHT", "smiles": "CC1=CC(=C(O)C(=C1)C(C)(C)C)C(C)(C)C", "purpose": "radical_trap", "observation": "Product 2 only in trace; two BHT-derived radical adducts 32 (C35H37N2O3+, [M+H]+ found 533.2858) and 33 ([M+Na]+ found 557.2817) detected by HRMS, consistent with trapping of substrate-derived radicals at the indole position"}, {"name": "1,1-Diphenylethylene", "smiles": "C(=C(c1ccccc1)c1ccccc1)", "purpose": "radical_trap", "observation": "Product 2 still formed in 26% yield; DPE only partially inhibits the reaction, supporting but not strongly suppressing the radical pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Mechanistic support is based solely on radical-trapping experiments (TEMPO, BHT, 1,1-diphenylethylene) with HRMS detection of BHT adducts 32 and 33; no DFT, CV, or KIE studies are shown on these pages. The BHT adducts indicate that both an indole-centered carbon radical (32) and possibly an aminyl/aminonaphthoquinone-centered radical (33) are accessible intermediates, suggesting a stepwise radical cyclization pathway rather than a concerted process."}
